US05506219
n-BuLi (1.6M in hexanes, 1.52 ml, 2.43 mmol) was added to a solution of cis-1-ethoxy-2-(tri-n-butylstannyl)ethylene (961 mg, 2.66 mmol) in dry THF (7.5 ml) at -78° C. The mixture was stirred for 1 hour, then treated with a solution of 4-(4-fluorophenyl)-2-(1-methylethyl)-6-phenyl-3-pyridinecarboxaldehyde (708 mg, 2.22 mmol) in THF (3.5 ml). One hour after the addition, the reaction was immersed in an ice bath, stirred for 5 minutes, then the mixture was quenched with H2O (8 ml) and 10% HCl (8 ml). The solution was stirred at room temperature for 2 hours, then basicified with 10% NaOH (10 ml) and extracted twice with Et2O. The combined Et2O layers were washed with H2O and brine, dried (Na2SO4), then filtered and stripped to give a yellow oil. Chromatographic purification of the oil (Flash, Merck SiO2, 10% EtOAc in hexane) gave (E)-3-[4-(4-fluorophenyl)-2-(1-methylethyl)-6-phenyl-3-pyridinyl]-2-propenal (665 mg, 87%) as a white solid. Recrystallization from hot hexane gave analytically pure material (580 mg).

reactant | n-BuLi | 2.43 mmol, 1.6M, 1.52 ml | [Li]CCCC
reactant | cis-1-ethoxy-2-(tri-n-butylstannyl)ethylene | 2.66 mmol, 961 mg | C(C)O\C=C/[Sn](CCCC)(CCCC)CCCC
reactant | 4-(4-fluorophenyl)-2-(1-methylethyl)-6-phenyl-3-pyridinecarboxaldehyde | 2.22 mmol, 708 mg | FC1=CC=C(C=C1)C1=C(C(=NC(=C1)C1=CC=CC=C1)C(C)C)C=O | C21H18FNO
solvent | THF | 7.5 ml | C1CCOC1 | C4H8O
solvent | THF | 3.5 ml | C1CCOC1 | C4H8O
product | (E)-3-[4-(4-fluorophenyl)-2-(1-methylethyl)-6-phenyl-3-pyridinyl]-2-propenal | 665 mg, 87% | FC1=CC=C(C=C1)C1=C(C(=NC(=C1)C1=CC=CC=C1)C(C)C)/C=C/C=O | C23H20FNO
